US08426447B2
A vial was charged with 2-amino-2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-5H-spiro[oxazole-4,9′-xanthene]-7′-yl trifluoromethanesulfonate (150 mg, 0.300 mmol), pyrimidin-5-ylboronic acid (111 mg, 0.899 mmol), and Pd(PPh3)4 (34.6 mg, 0.030 mmol). The vial was purged with Ar (g), then DMF (2 mL) and potassium carbonate (0.749 mL, 1.499 mmol) (as a 2.0 M aq. solution) were added in sequence. The vial was capped and heated in a Biotage Initiator microwave reactor for 1.5 h at 75° C. The product was purified via Gilson HPLC (gradient elution 20-90% MeCN/H2O, 0.1% TFA) to afford (R)-2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine as an off white solid. Found MS: MH+=431.

reactant | 2-amino-2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-5H-spiro[oxazole-4,9′-xanthene]-7′-yl trifluoromethanesulfonate | 0.300 mmol, 150 mg | FC(S(=O)(=O)OC1=CC=C2OC=3C(=CC(=CC3C3(C2=C1)N=C(OC3)N)C=3CCOCC3)F)(F)F | C21H16F4N2O6S
reactant | pyrimidin-5-ylboronic acid | 0.899 mmol, 111 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | potassium carbonate | 1.499 mmol, 0.749 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(PPh3)4 | 0.030 mmol, 34.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (R)-2′-(3,6-dihydro-2H-pyran-4-yl)-4′-fluoro-7′-(pyrimidin-5-yl)-5H-spiro[oxazole-4,9′-xanthen]-2-amine | O1CCC(=CC1)C1=CC=2[C@@]3(C4=CC(=CC=C4OC2C(=C1)F)C=1C=NC=NC1)N=C(OC3)N | C24H19FN4O3
